US05608056
To a solution of potassium t-butoxide (8.42 g) in dimethylformamide (70 ml) was added thiobenzoic S-acid (9.27 ml) dropwise at -20° C. under dry ice--acetone bath. After the addition, the solution was warmed to room temperature, and then stirred for 75 minutes. To the solution was added a solution of (2R,4R)-1-allyloxycarbonyl-2-[2-(2-carbamoylimidazol-1-yl)ethyl]-4-methylsulfonyloxypyrrolidine (14.5 g) in dimethylformamide (70 ml) and the mixture was heated to 85° C. and stirred for 2 hours. After cooling to room temperature, the mixture was quenched by the addition of water (280 ml) and extracted with ethyl acetate (140 ml×3). The combined extract was washed with aqueous saturated sodium bicarbonate solution (140 ml×2), water (200 ml×2), and brine (200 ml×2), and then dried over magnesium sulfate. The solvent was evaporated and the residue was chromatographed on a 150 g of silica gel eluting with a mixture of chloroform and methanol (95:5, V/V) to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(2-carbamoylimidazol-1-yl) ethyl]pyrrolidine (11.2 g) as a yellow paste.

reactant | potassium t-butoxide | 8.42 g | CC(C)([O-])C.[K+]
reactant | thiobenzoic S-acid | 9.27 ml | C(C1=CC=CC=C1)(=O)S | C7H6OS
reactant | (2R,4R)-1-allyloxycarbonyl-2-[2-(2-carbamoylimidazol-1-yl)ethyl]-4-methylsulfonyloxypyrrolidine | 14.5 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C(=NC=C1)C(N)=O | C15H22N4O6S
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[2-(2-carbamoylimidazol-1-yl) ethyl]pyrrolidine | 11.2 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CCN1C(=NC=C1)C(N)=O | C21H24N4O4S
